US04640920
(a) 4-(7-Chloro-4-cinnolinylamino)-N-(2-chloroethyl) benzenesulphonamide
This compound is prepared in a similar manner to the procedure of Example 10 using equimolar quantities of 2-chloroethylamine hydrochloride instead of 3-chloropropylamine hydrochloride and 4-(7-chloro-4-cinnolinylamino)benzenesulphonyl chloride hydrochloride instead of 4-(7-chloro-4-quinolinylamino) benzenesulphonyl chloride.

reactant | 2-chloroethylamine hydrochloride | Cl.ClCCN
reactant | 4-(7-chloro-4-cinnolinylamino)benzenesulphonyl chloride hydrochloride | Cl.ClC1=CC=C2C(=CN=NC2=C1)NC1=CC=C(C=C1)S(=O)(=O)Cl
product | 4-(7-Chloro-4-cinnolinylamino)-N-(2-chloroethyl) benzenesulphonamide | ClC1=CC=C2C(=CN=NC2=C1)NC1=CC=C(C=C1)S(=O)(=O)NCCCl | C16H14Cl2N4O2S
